US07884110B2
Intermediate 17: 3-(4-Chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2-carboxylic acid methoxy-methyl-amide
10.49 g (26.6 mmol) of 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2-carboxylic acid was reacted with 5.40 g (33.2 mmol) of N,N′-carbonyldiimidazole in 40 mL of refluxing THF for 3 h. The temperature was lowered to 50° C., 2.86 g (29.3 mmol) of O,N-dimethyl-hydroxylamine hydrochloride was added and the reaction was stirred overnight at 50° C. Half of the solvent was removed under reduced pressure and the reaction mixture was diluted with 200 mL of cold water. The solids were filtered off, washed with 100 mL of water and dried to give 9.8 g (84%) of the product as a tan powder.

reactant | 3-(4-chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2-carboxylic acid | 26.6 mmol, 10.49 g | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)C)C(=O)O)C(F)(F)F | C14H10ClF3N2O4S
reactant | O,N-dimethyl-hydroxylamine hydrochloride | 29.3 mmol, 2.86 g | Cl.CONC
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-3-trifluoromethyl-benzenesulfonylamino)-5-methyl-pyridine-2-carboxylic acid methoxy-methyl-amide | 9.8 g, 84% | CON(C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)C)C | C16H15ClF3N3O4S
